US09403818B2
Preparation of methyl 8-(pyridin-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(pyridin-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and pyridin-3-yl-boronic acid (63 mg, 0.51 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 94:6) afforded the title compound as a yellow solid (100 mg, 87%). ESI-MS m/z: 335 (M+H)+.

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | pyridin-3-yl-boronic acid | 0.51 mmol, 63 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | methyl 8-(pyridin-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 100 mg, 87% | N1=CC(=CC=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C20H18N2O3
